US05223499
To a solution of 2-butyl-3-[2'-(1,1-dimethylethyl)aminosulfonyl][1,1'-biphenyl]-4-yl]methyl]-5-methyl-6-[(1-oxopentyl)amino]-3H-imidazo[4,5-b]pyridine (347 mg, 0.589 mmol) in MeOH (3 mL) was added conc. HCl (2 mL). After the solution was stirred at rt for 42 h, the solution was diluted with EtOAc, neutralized by saturated aq. NaHCO3, washed with brine, and dried over anhydrous MgSO4. Concentration followed by flash chromatography (100% EtOAc, 10% MeOH/EtOAc) afforded 2-butyl-3-[2'-(1,1-dimethylethyl)aminosulfonyl][1,1'-biphenyl]4-yl]methyl]-5-methyl-6-amino-3H-imidazo[4,5-b] pyridine as a solid. To this solid (100 mg, 0.198 mmol) and DMAP (10 mg, 0.08 mmol) in pyridine (2 mL) was added iso-propylisocyanate (24 mL, 0.24 mmol). After the solution was stirred at rt for 18 h, the solution was quenched with MeOH, and stirred at rt for additional 2 h. Concentration gave a brown glass, which was dissolved in TFA (2 mL) and stirred at rt for 18 h. After TFA was removed in vacuo, the residue was dissolved in EtOAc and washed with saturated aq. NaHCO3. The aqueous layer was extracted with EtOAc (2X). The combined organic layer was washed with brine, and dried over anhydrous MgSO4. Concentration followed by flash chromatography (hexanes: EtOAc=1:1, 100% EtOAc, 10% MeOH/EtOAc) afforded the title compound as a foamy powder.

reactant | 5-methyl-6-[(1-oxopentyl)amino]-3H-imidazo[4,5-b]pyridine | 0.589 mmol, 347 mg | CC1=C(C=C2C(=N1)NC=N2)NC(CCCC)=O | C12H16N4O
reactant | HCl | 2 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-methyl-6-amino-3H-imidazo[4,5-b] pyridine | CC1=C(C=C2C(=N1)NC=N2)N | C7H8N4
